US04062965
a. Preparation of 1-n-dodecyl-2-ethyl-3-n-octyl-imidazole chloride
1 mole of n-dodecyl-2-ethylimidazole is dissolved in 500 ml of n-butanol and reacted with 1.2 moles of n-octyl chloride. This reaction mixture is heated at 127° C for 15 hours. Then the alcohol and the excess n-octyl chloride are distilled off and the remaining residue is washed with ether. Yield: 204 grams

reactant | n-dodecyl-2-ethylimidazole | 1 mole | C(CCCCCCCCCCC)C=1N=C(NC1)CC | C17H32N2
reactant | n-octyl chloride | 1.2 moles | C(CCCCCCC)Cl | C8H17Cl
reactant | n-butanol | 500 ml | C(CCC)O | C4H10O
product | 1-n-dodecyl-2-ethyl-3-n-octyl-imidazole chloride | [Cl-].C(CCCCCCCCCCC)N1C(N(C=C1)CCCCCCCC)CC | InChI=1S/C25H50N2.ClH/c1-4-7-9-11-13-14-15-16-18-20-22-27-24-23-26(25(27)6-3)21-19-17-12-10-8-5-2;/h23-25H,4-22H2,1-3H3;1H/p-1
